US08404687B2
(S)-tert-Butyl 4-(4-(4-methoxyphenyl)phthalazin-1-yl)-2-methylpiperazine-1-carboxylate
Treat a degassed mixture of (S)-tert-butyl 4-(4-chlorophthalazin-1-yl)-2-methylpiperazine-1-carboxylate (0.81 g, 2.23 mmol), 4-methoxybenzeneboronic acid (1.07 g, 7.05 mmol) and cesium fluoride (1.05 g, 6.94 mmol) in 1,4-dioxane (30 mL) with (1,1′-bis(diphenylphosphino)ferrocene)palladium(II) chloride (0.27 g, 0.33 mmol). Heat the resulting mixture at 95° C. overnight. Partition the reaction mixture between water and EtOAc. Extract the aqueous layer with EtOAc. Wash the organic portion with water and brine, dry over Na2SO4, and concentrate under reduced pressure. Purify the resulting residue by flash silica gel chromatography (gradient of 15 to 70% EtOAc in hexanes) to provide the title compound (0.94 g, 96%). ES/MS m/z 435.2 (M+1).

reactant | (S)-tert-butyl 4-(4-chlorophthalazin-1-yl)-2-methylpiperazine-1-carboxylate | 2.23 mmol, 0.81 g | ClC1=NN=C(C2=CC=CC=C12)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C18H23ClN4O2
reactant | 4-methoxybenzeneboronic acid | 7.05 mmol, 1.07 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | cesium fluoride | 6.94 mmol, 1.05 g | [F-].[Cs+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-Butyl 4-(4-(4-methoxyphenyl)phthalazin-1-yl)-2-methylpiperazine-1-carboxylate | 0.94 g, 96% | COC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C25H30N4O3
